US04650788
(b) Ddz-Asp(OBzl)-Val-OBut (4)
The peptide coupling is carried out by the PPA method as described for (a). Batch: 13.4 g (30 mmol) of Ddz-Asp(OBzl)-OH and 10.36 g (30 mmol) of H-Val-OBut.TsOH.

reactant | Ddz-Asp(OBzl)-OH | 30 mmol, 13.4 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C23H27NO8
reactant | H-Val-OBut | 30 mmol, 10.36 g | N[C@@H](C(C)C)C(=O)OC(C)(C)C | C9H19NO2
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | Ddz-Asp(OBzl)-Val-OBut | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C32H44N2O9
